US06664265B2
A solution of the compound of Example 68, 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (800 mg, 2.67 mmol) in 30 mL of CH2Cl2 was treated with triethylamine (1.10 mL, 8.0 mmol). With vigorous stirring the solution was treated dropwise with benzoyl chloride (0.325 mL, 2.80 mmol). After 18 h, the reaction was treated with 50 mL water and 50 mL CHCl3 and the layers were separated. The aqueous portion was extracted with CHCl3 (3×30 mL). The combined organic portions were washed with brine, dried over Na2SO4, filtered and concentrated to yield an off white solid. Purification by column chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) gave 574 mg of N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}benzamide as a white solid. mp=188-191° C.; 1H NMR (300 MHz, DMSO-d6) δ8.36 (t, J=5.4 Hz, 1 H), 8.04 (d, J=7.5 Hz, 1 H), 7.80-7.75 (m, 2 H), 7.62 (dd, J=1.1, 8.3 Hz, 1 H), 7.55-7.36 (m, 4 H), 7.18 (m, 1 H), 6.45 (s, 2 H), 4.70 (t, J=5.1 Hz, 2 H), 3.90 (t, J=5.1 Hz, 2 H), 3.49 (t, J=6.1 Hz, 2 H), 3.40-3.33 (m, 2 H), 2.93 (q, J=7.5 Hz, 2 H), 1.30 (t, J=7.4 Hz, 3 H); 13C NMR (75 MHz, DMSO-d6) δ166.7, 155.2, 152.0, 145.1, 134.8, 132.8, 131.4, 128.6, 127.5, 126.7, 126.6, 121.4, 120.5, 115.2, 69.4, 69.2, 45.4, 20.3, 12.1; MS m/z 404 (M+H)+; Anal. Calcd for C23H25N5O2: C, 68.47; H, 6.25; N, 17.36. Found: C, 68.27; H, 6.32; N, 17.28.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.67 mmol, 800 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5O
reactant | triethylamine | 8.0 mmol, 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 2.80 mmol, 0.325 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}benzamide | 574 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(C2=CC=CC=C2)=O)CC | C23H25N5O2
